US07858632B2
5-(2-Isopropyl-4,5-dimethoxy-phenoxy)-N*2*-(tetrahydro-thiopyran-4-yl)-pyrimidine-2,4-diamine was prepared according to the procedure of example 5, using 2-(2-isopropyl-4,5-dimethoxy-phenoxy)-3-methoxy-acrylonitrile (prepared using the procedure of Example 4) together with N-(tetrahydro-thiopyran-4-yl)-guanidine from Preparation 1.

reactant | 2-(2-isopropyl-4,5-dimethoxy-phenoxy)-3-methoxy-acrylonitrile | C(C)(C)C1=C(OC(C#N)=COC)C=C(C(=C1)OC)OC | C15H19NO4
reactant | N-(tetrahydro-thiopyran-4-yl)-guanidine | S1CCC(CC1)NC(=N)N | C6H13N3S
product | 5-(2-Isopropyl-4,5-dimethoxy-phenoxy)-N*2*-(tetrahydro-thiopyran-4-yl)-pyrimidine-2,4-diamine | C(C)(C)C1=C(OC=2C(=NC(=NC2)NC2CCSCC2)N)C=C(C(=C1)OC)OC | C20H28N4O3S
